Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / mirtazapine / 
Mirapex / Abilify / Penicillins / sulfa antibiotics
 
Attending: ___.
 
Chief Complaint:
seizure
 
Major Surgical or Invasive Procedure:
Lumbar puncture

 
History of Present Illness:
Mr. ___ is a ___ old man with a history of depression, one
prior generalized seizure and hypertension who presents with an
episode of altered mental status.

Patient reports that he awoke around 7 AM this morning feeling
well.  He had breakfast and was getting ready for work.  He went
upstairs to his room in order to take a shower but never got 
into
the shower.  His father came into the bathroom after some period
of time and found his son sitting on the floor, with his back to
him.  The patient was rocking back and forth and seemed confused
about why he was on the floor.  He was able to respond to his
name and turned around but did not know why he was not in the
shower.  There is no obvious signs of trauma such as tongue 
bite,
urinary incontinence or head laceration.

His parents took him to ___ where he had basic lab work
including a leukocytosis to 12, lactate of 1.5, normal
chemistries and negative serum tox screen.  He did have a
temperature to 100.9.  He remained confused for approximately 1
hour after arrival to the emergency department.  His parents now
feel that he is about "90 percent of normal."  

Further history reveals that patient has had at least 2 other
discrete episodes of confusion in the past week that his parents
have noticed, including one episode where the patient went
upstairs for unclear reasons and looked confused and annoyed. 
The parents cannot recall the other episode.  His mom also
describes episodes of fatigue and nodding off frequently, which
is unusual for him.

He has had a cough and runny nose recently but denies any fever
or chills.  He has not had any headache, neck pain or neck
stiffness. 

Of note, he did have a C5-6 operation at ___ on ___ ___nd shoulder pain.  He was discharged from the hospital on
___ without complication.  He did not require ___ or OT.

He has a long-standing history of depression and anxiety which 
is
treated with ketamine infusion, last 2 weeks ago.  He also uses
intranasal ketamine about ___ times per week.  Additionally, he
is intermittently using buprenorphine for pain and depression. 

With regard to his prior seizure, this was a presumed 
generalized
seizure in ___ of this past year.  He was evaluated by Dr.
___ in the epilepsy clinic.  Per her records, patient
went to watch television and then about ___ minutes later had
an event that he does not recall.  He woke up to EMS in his room
and feeling confused.  He reported sore muscles and tongue
laceration but no incontinence.  Etiology of the presumed 
seizure
was thought secondary to sleep deprivation as well as use of IV
ketamine infusion in the preceding few days.  He underwent
high-resolution MRI of the brain which did not show any evidence
of mesial temporal sclerosis.  He did not have an EEG.  He was
not started on medication.  He has not had any further events
since that time.

In the setting of these frequent episodes of confusion at home 
in
the past week, in discussion with neurology at ___, the
decision was made to transfer patient for continuous EEG
monitoring to evaluate for complex partial seizures.

Risk factors:
Normal birth and development. 
No febrile seizures. 
No head injury.
No meningitis, encephalitis. 
No family history of seizures. 

On neuro ROS, the pt reports a bifrontal, throbbing headache and
nausea which is similar to the headaches she has had in the past
in the setting of dehydration and not eating.  He reports that 
he
has not eaten all day while being in the emergency room. 

Denies loss of vision, blurred vision, diplopia, dysarthria,
dysphagia, lightheadedness, vertigo, tinnitus or hearing
difficulty. Denies difficulties producing or comprehending
speech.  Denies focal weakness, numbness, parasthesiae. No bowel
or bladder incontinence or retention. Denies difficulty with
gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies diarrhea, constipation or abdominal pain. 
No recent change in bowel or bladder habits.  No dysuria.  
Denies

 
Past Medical History:
Depression
Anxiety
Status post C5-6 surgery on ___ at ___, presumably
for spinal stenosis
Hypothyroidism
Hypertension
ADHD
 
Social History:
___
Family History:
No family history of seizure. 
 
Physical Exam:
On admission:

Physical Exam:
Vitals: T: 99 P: 80  R: 16  BP: 130/71 SaO2: 99% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___   ___    5   5     5      5   
R  5    ___   ___    5   5     5      5   

-Sensory: No deficits to light touch, pinprick, proprioception
throughout. Romberg absent. 

-DTRs:
  ___ Tri ___ Pat Ach
L  2  2    2    3   2
R  2  2    2    3   2
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. No dysmetria on FNF or HKS
bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. 

===

On discharge: unchanged
 
Pertinent Results:
___ 04:13PM CEREBROSPINAL FLUID (CSF)  IPT-CANCEL
___ 03:27PM CEREBROSPINAL FLUID (CSF)  PROTEIN-61* 
GLUCOSE-63
___ 03:27PM CEREBROSPINAL FLUID (CSF)  TNC-2 RBC-0 POLYS-0 
___ ___ 05:00AM   GLUCOSE-91 UREA N-8 CREAT-0.9 SODIUM-144 
POTASSIUM-4.3 CHLORIDE-104 TOTAL CO2-27 ANION GAP-13
___ 10:19PM URINE  bnzodzpn-POS* barbitrt-POS* opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 05:00AM   WBC-7.4 RBC-4.13* HGB-12.0* HCT-36.0* MCV-87 
MCH-29.1 MCHC-33.3 RDW-12.8 RDWSD-40.2
___ 05:00AM   FREE T4-1.0
___ 05:00AM   TSH-0.81
___ 05:00AM   CALCIUM-9.3 PHOSPHATE-3.4 MAGNESIUM-2.0

MRI brain: 1. Normal brain MRI. 
2. No seizure focus identified. 
  

 
Brief Hospital Course:
Mr. ___ is a ___ old man with a history of depression 
and one prior presumed generalized seizure who presents with 
multiple episodes of confusion concerning for recurrent 
seizures. Leading hypothesis is that seizures may be related to 
ketamine use as onset of seizures corresponds with onset of 
ketamine therapy (in ___ and ketamine has known 
hyperexcitability properties. No evidence of intracranial 
process on CT. No metabolic abnormalities to suggest metabolic 
encephalopathy. EEG did not show seizures. LP done showed 
elevated protein, but MRI brain normal. Autoimmune encephalitis 
panel sent to ___ Clinic. He was started on extended release 
Depakote 1500mg every evening. 

Transitional Issues:
- f/u autoimmune encephalitis panel from ___
- f/u neurology clinic in ___
- continue Depakote ER 1500mg qpm
- counseled on not driving
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ketamine in sterile water unknown  injection 3X/WEEK 
2. Levothyroxine Sodium 88 mcg PO DAILY 
3. Losartan Potassium 100 mg PO DAILY 
4. Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL DAILY 
5. Propranolol 40 mg PO BID 

 
Discharge Medications:
1.  Divalproex (EXTended Release) 1500 mg PO Q24H 
RX *divalproex ___ mg 3 tablet(s) by mouth at bedtime Disp #*90 
Tablet Refills:*3 
2.  Gabapentin 600 mg PO TID  
3.  Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL DAILY  
4.  Levothyroxine Sodium 88 mcg PO DAILY  
5.  Losartan Potassium 100 mg PO DAILY  
6.  Propranolol 40 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Seizure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted because your father found you confused on the 
bathroom floor. It was unclear what this event was, but you were 
taken to ___ where you stayed confused for about an hour. 
You have also had several episodes of confusion of unclear 
etiology. We are suspicious that these were seizures, but we are 
unsure of the cause. We are suspicious of ketamine and how it 
may build up in your system leading to seizures after your 
infusions, but it is unclear at this time. Given your history of 
a likely seizure in ___ and these episodes of confusion, we 
have started you on a new medication called DEPAKOTE ER. Please 
take 1500mg every night. It also has a mood stabilizing effect, 
so we are hopeful that it will help your depression as well.

While you were here, your EEG did not show any seizures. You 
also had an LP done, which showed elevated protein of unclear 
etiology. You had an MRI of your brain afterwards, which did not 
show any abnormalities. You will follow up in outpatient 
epilepsy clinic.

Please do not drive for the next 6 months per MA state law. 
Please do not swim or take a bath unsupervised. Do not climb on 
high objects without supervision as you may be at risk for 
falling.

It was a pleasure taking care of you, and we wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___